US07585885B2
5-(3,3-Difluoropyrrolidine-1-carbonyl)-N-methyl-N-propyl-isophthalamic acid ethyl ester
Dissolve 5-(methyl-propylcarbamoyl)-isophthalic acid monoethyl ester (667 mg, 2.3 mmol) in a 0.1 N 1-hydroxybenzotriazole solution of 1:1:5 tert-butanol:acetonitrile:dichloromethane (23 mL, 2.3 mmol). Stir the solution at room temperature for 5 min, add 3,3-difluoropyrrolidine hydrochloride (331 mg, 2.3 mmol) and triethylamine (640 μL, 4.6 mmol); Stir the reaction at room temperature for 2 h, add ethyl acetate (100 mL) and wash with saturated aqueous ammonium chloride (2×30 mL), saturated aqueous sodium chloride (30 mL), dry (sodium sulfate), concentrate and purify (silica gel chromatography, eluting with 50:50 ethyl acetate:hexanes) to give the title compound (270 mg, 31%).

reactant | 5-(methyl-propylcarbamoyl)-isophthalic acid monoethyl ester | 2.3 mmol, 667 mg | C(C)OC(C1=CC(C(=O)O)=CC(=C1)C(N(CCC)C)=O)=O | C15H19NO5
reactant | dichloromethane | 2.3 mmol, 23 mL | ClCCl | CH2Cl2
reactant | 3,3-difluoropyrrolidine hydrochloride | 2.3 mmol, 331 mg | Cl.FC1(CNCC1)F
reactant | triethylamine | 4.6 mmol, 640 μL | C(C)N(CC)CC | C6H15N
solvent | 1-hydroxybenzotriazole | 0.1 N | ON1N=NC2=C1C=CC=C2 | C6H5N3O
solvent | tert-butanol | C(C)(C)(C)O | C4H10O
solvent | ethyl acetate | 100 mL | C(C)(=O)OCC | C4H8O2
solvent | acetonitrile | C(C)#N | C2H3N
product | 5-(3,3-Difluoropyrrolidine-1-carbonyl)-N-methyl-N-propyl-isophthalamic acid ethyl ester | 270 mg, 31% | C(C)OC(C1=CC(C(=O)N(CCC)C)=CC(=C1)C(=O)N1CC(CC1)(F)F)=O | C19H24F2N2O4
